US07705042B2
c) 2-(3-Fluoro-piperidin-1-yl)-4-(4-methyl-piperazin-1-yl)-phenylamine
A solution of 1-[3-(3-fluoro-piperidin-1-yl)-4-nitro-phenyl]4-methyl-piperazine (as prepared in the previous step, 60 mg, 0.19 mmol) in 2:1 EtOH:water (6 mL), was treated with glacial AcOH (1 drop) and iron powder (10 mg, 0.93 mmol). The mixture was heated to 80° C. for 30 min. The reaction cooled to room temperature, diluted with EtOAc and washed with saturated aqueous NaHCO3. The aqueous layer was extracted with EtOAc. The combined organic layers were dried over MgSO4 and concentrated in vacuo to afford the title compound (46 mg, 84%), which was used directly in the next reaction. LC-MS (ESI, m/z): Calcd. for C16H25FN4 293.2 (M+H), found 293.2.

reactant | 1-[3-(3-fluoro-piperidin-1-yl)-4-nitro-phenyl]4-methyl-piperazine | FC1CN(CCC1)C=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)C | C16H23FN4O2
reactant | EtOH | CCO | C2H6O
reactant | water | 6 mL | O | H2O
catalyst | AcOH | 1 drop | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | iron | 0.93 mmol, 10 mg | [Fe] | Fe
product | 2-(3-Fluoro-piperidin-1-yl)-4-(4-methyl-piperazin-1-yl)-phenylamine | 46 mg, 84% | FC1CN(CCC1)C1=C(C=CC(=C1)N1CCN(CC1)C)N | C16H25FN4
